US05556977
4-(piperazin-1-yl)anisole (4.24 g) and 4-chloropyridine hydrochloride (3.35 g) were intimately mixed and heated at 160°-170° C. (bath temperature) for 7 minutes. The solid obtained on cooling was dissolved in water (75 ml) and the solution basified with aqueous ammonia. The solid precipitate was extracted into ethyl acetate and the organic extract washed with water, filtered through phase separating paper (Whatman 1PS) and evaporated. The residue was recrystallised from ethanol to give 4-[4(4-pyridyl)piperazin-1-yl]anisole (1.84 g) as a solid: m.p. 165°-167° C.; NMR (CDCl3) δ8.3(2H,d); 6.86(4H,m); 6.71(2H,d); 3.78(3H,s); 3.46(4H,m); 3.2(4H,m).

reactant | 4-(piperazin-1-yl)anisole | 4.24 g | N1(CCNCC1)C1=CC=C(C=C1)OC | C11H16N2O
reactant | 4-chloropyridine hydrochloride | 3.35 g | Cl.ClC1=CC=NC=C1
reactant | ammonia | N | H3N
solvent | water | 75 ml | O | H2O
product | 4-[4(4-pyridyl)piperazin-1-yl]anisole | 1.84 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C16H19N3O
